US09315507B2
2-(4-(Adamantan-1-yl)phenoxy)-N-(3-hydroxyadamantan-1-yl)acetamide (I-41)
The title compound was prepared from 2-(4-(adamantan-1-yl)phenoxy)acetic acid (0.2 g, 0.69 mmol) and 3-aminoadamantan-1-ol hydrate (0.129 g, 0.69 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)phenoxy)-N-(3-hydroxyadamantan-1-yl)acetamide as a white solid (0.275 g, 90.4% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 0.69 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | 3-aminoadamantan-1-ol hydrate | 0.69 mmol, 0.129 g | O.NC12CC3(CC(CC(C1)C3)C2)O
product | 2-(4-(adamantan-1-yl)phenoxy)-N-(3-hydroxyadamantan-1-yl)acetamide | 0.275 g, 90.4% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)NC31CC4(CC(CC(C3)C4)C1)O)C=C2 | C28H37NO3
